US09388161B2
Step 1. (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-methoxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 0.012 g, 0.30 mmol) was added to a solution of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.100 g, 0.19 mmol) in N,N-dimethylformamide (2 mL), and the resulting mixture was stirred for 30 min at room temperature. Methyl iodide (0.014 mL, 0.23 mmol) was added, and the resulting mixture s stirred overnight at room temperature. The reaction mixture was poured into 10 mL of water, extracted with 3×10 mL of ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by Prep-TLC with ethyl acetate/petroleum ether (13). This resulted in 70 mg (68%) of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-methoxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate as colorless oil. MS (ESI, pos. ion) m/z 544 [M+H]+.

reactant | Sodium hydride | 0.30 mmol, 0.012 g | [H-].[Na+]
reactant | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-hydroxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.19 mmol, 0.100 g | C(C)(C)(C)OC(=O)N1CC(C1)(O)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C27H35N3O6S
reactant | Methyl iodide | 0.23 mmol, 0.014 mL | CI | CH3I
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-methoxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C(C)(C)(C)OC(=O)N1CC(C1)(OC)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C28H37N3O6S
